US07618978B2
N-Methyl-5-(2-methylpropenyl)-N-propyl-isophthalamic acid
Dissolve 5-(2-methylpropenyl)-isophthalic acid diethyl ester (535 mg, 1.94 mmol) in acetone (10 mL) and add a solution of NaOH (77 mg, 1.94 mmol) in methanol (2 mL). Stir at room temperature 2 days and concentrate. Dissolve in water and wash with diethyl ether. Acidify the water layer to about pH=1 with 1 N HCl and extract with dichloromethane. Dry the dichloromethane layer over magnesium sulfate, filter and concentrate. Dissolve the residue in DMF (10 mL) and add 1-(3-dimnethylamino-propyl)-3-ethyl-carbodiimide hydrochloride (409 mg, 2.13 mmol) and 1-hydroxybenzotriazole (288 mg, 2.13 mmol). After 30 min, add methyl-propyl-amine (283 mg, 3.87 mmol) and triethylamine (665 mg, 6.58 mmol) in DMF (2 mL). Stir at room temperature 1 h and dilute with ethyl acetate. Wash with 10% aqueous potassium carbonate, 0.1 N citric acid, 1 N lithium chloride and saturated aqueous sodium chloride and concentrate. Dissolve the residue in THF (20 mL) and add 1 N lithium hydroxide (10 mL, 10 mmol). Stir at room temperature for 4 h and acidify to about pH=1 with 1 N HCl. Extract with dichloromethane, dry (magnesium sulfate), filter and concentrate to give the title compound as a solid (220 mg, 41%).

reactant | 5-(2-methylpropenyl)-isophthalic acid diethyl ester | 1.94 mmol, 535 mg | C(C)OC(C1=CC(C(=O)OCC)=CC(=C1)C=C(C)C)=O | C16H20O4
reactant | NaOH | 1.94 mmol, 77 mg | [OH-].[Na+]
reactant | 1-hydroxybenzotriazole | 2.13 mmol, 288 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methyl-propyl-amine | 3.87 mmol, 283 mg | CNCCC | C4H11N
reactant | triethylamine | 6.58 mmol, 665 mg | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide | 10 mmol, 1 N, 10 mL | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | methanol | 2 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-5-(2-methylpropenyl)-N-propyl-isophthalamic acid | 220 mg, 41% | CN(C(C=1C=C(C(=O)O)C=C(C1)C=C(C)C)=O)CCC | C16H21NO3
